US08119666B2
A. 6-Bromoindan-5-ol
To a solution of 5-indanol (6.32 g, 47 mmol) in DMF (20 mL) is added NBS (8.38 g, 47 mmol) and the mixture is stirred at ambient temperature for 1 h. Water is added and the mixture is then extracted with EtOAc. The organic layer is washed with 1N HCl solution and brine, dried with NaSO4 and concentrated to give the title compound and it is used in the next step without purification.

reactant | 5-indanol | 47 mmol, 6.32 g | C1CCC2=CC(=CC=C12)O | C9H10O
reactant | NBS | 47 mmol, 8.38 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | Water | O | H2O
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 6-Bromoindan-5-ol | BrC1=C(C=C2CCCC2=C1)O | C9H9BrO
